US07361671B2
A suspension of potassium cyanide (13.2 g, 203 mmol) in DMF (66 mL) is cooled to 0° C. and carefully treated with a solution of 3,4-bis-chloromethyl-2,5-dimethyl-thiophene (10.0 g, 48.0 mmol) in DMF (34 mL). After warming to room temperature and stirring for 18 h, the solution is heated to 40° C. for 1 h, cooled to room temperature and diluted with chloroform and saturated aq NaCl. The chloroform layer is separated, and the aq layer extracted with chloroform. The combined organic layers are washed with saturated aq NaCl, dried over MgSO4, filtered and concentrated in vacuo. The resulting residue is triturated with heptane, filtered under vacuum and dried overnight in a vacuum oven to give (4-cyanomethyl-2,5-dimethyl-thiophen-3-yl)-acetonitrile (8.6 g, 94.6%) as an off-white solid: mp 123.5-125.5° C.; Rf 0.33 (30% ethyl acetate in heptane); 1H NMR (CDCl3, 300 MHz) δ 3.65 (s, 4 H), 2.38 (s, 6 H).

reactant | potassium cyanide | 203 mmol, 13.2 g | [C-]#N.[K+]
reactant | 3,4-bis-chloromethyl-2,5-dimethyl-thiophene | 48.0 mmol, 10.0 g | ClCC1=C(SC(=C1CCl)C)C | C8H10Cl2S
reactant | DMF | 66 mL | CN(C)C=O | C3H7NO
reactant | DMF | 34 mL | CN(C)C=O | C3H7NO
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
solvent | NaCl | [Na+].[Cl-]
product | (4-cyanomethyl-2,5-dimethyl-thiophen-3-yl)-acetonitrile | 8.6 g, 94.6% | C(#N)CC=1C(=C(SC1C)C)CC#N | C10H10N2S
